US06632901B2
Preparation of bis(propylcyclopentadienyl)zirconium difluoride
To a straw yellow solution of bis(propylcyclopentadienyl) zirconium dichloride [(PrCp)2ZrCl2] (1.00 g, 2.66 mmol, 1.00 eq.) in dichloromethane (10 mL) was added tributyltin fluoride (1.72 g, 5.57 mmol, 2.10 eq.). The reaction rapidly lightened, turning almost colorless. The reaction was stirred 1 h and was then filtered to give a colorless solution and a small amount of white solid. The solution was evaporated in vacuo, leaving a damp, white solid. Pentane (10 mL) was added and the mixture was cooled to −35° C. The mixture was filtered, and resulting white solid was washed with pentane (3×3 mL) cooled to −35° C. The white solid was dried in vacuo to yield 0.75 g (82%). 1H NMR(CD2Cl2): δ0.92 (t, 6H, CH2CH2CH3), 1.56 (m, 4H, CH2CH2CH3), 2.44 (t, 4H, CH2CH2CH3), 6.05 (m, 4H, ring-H), 6.30 (m, 4H, ring-H). 19F NMR(CD2Cl2): δ20.4 (s).

reactant | bis(propylcyclopentadienyl) zirconium dichloride | 2.66 mmol, 1.00 g, 1.00 eq. | [Cl-].[Cl-].C(CC)C1(C=CC=C1)[Zr+2]C1(C=CC=C1)CCC
reactant | tributyltin fluoride | 5.57 mmol, 1.72 g, 2.10 eq. | C(CCC)[Sn](CCCC)(CCCC)F
reactant | Pentane | 10 mL | CCCCC | C5H12
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | bis(propylcyclopentadienyl)zirconium difluoride | [F-].[F-].C(CC)C1(C=CC=C1)[Zr+2]C1(C=CC=C1)CCC | InChI=1S/2C8H11.2FH.Zr/c2*1-2-5-8-6-3-4-7-8;;;/h2*3-4,6-7H,2,5H2,1H3;2*1H;/q;;;;+2/p-2
